US08937092B2
To a stirred solution of N-(4-bromobenzyl)methanesulfonamide (675 mg, 2.555 mmol) in dimethylformamide were added ethyl 2-chloropropionate (0.42 mL), manganese (280 mg) and (2,2′-bipyridine)nickel(II)-dibromide (67 mg, 0.17885 mmol). Trifluoroacetic acid (2 drops) was added. The reaction mixture was stirred for 36 h at 60° C. After cooling down to room temperature, the mixture was hydrolysed by 1N HCl and extracted with diethyl ether. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to obtain ethyl 2-(4-(methylsulfonamidomethyl)phenyl)propanoate (325 mg).

reactant | N-(4-bromobenzyl)methanesulfonamide | 2.555 mmol, 675 mg | BrC1=CC=C(CNS(=O)(=O)C)C=C1 | C8H10BrNO2S
reactant | ethyl 2-chloropropionate | 0.42 mL | ClC(C(=O)OCC)C | C5H9ClO2
reactant | HCl | 1N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
catalyst | manganese | 280 mg | [Mn] | Mn
product | ethyl 2-(4-(methylsulfonamidomethyl)phenyl)propanoate | 325 mg | CS(=O)(=O)NCC1=CC=C(C=C1)C(C(=O)OCC)C | C13H19NO4S
